### PR TITLE
Bump to Lean v4.29.0

### PR DESCRIPTION
**Pull request by augustepoiroux**
Bump toolchain to Lean v4.29.0

## Notable changes

- `SpherePacking/CohnElkies/LPBound.lean` is rewritten to use the newer Fourier API more directly (`𝓕 f`, `𝓕⁻`, `fourierInv_fourier_eq`).
- `SpherePacking/Basic/PeriodicPacking.lean#L344`:  `PeriodicSpherePacking.card_centers_inter_vadd_fundamentalDomain` now assumes `[Finite ι]` instead of `[Fintype ι]`.
- `SpherePacking/ModularForms/eta.lean`: use `η` from Mathlib. Update blueprint reference to `ModularForm.eta`.

### CODE REVIEW

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 1]
```diff
@@ -561,11 +561,26 @@ lemma E6_q_exp : (fun m => (qExpansion 1 E₆).coeff m) =
...
+      PowerSeries.constantCoeff (qExpansion 1 ⇑f) *
+        PowerSeries.constantCoeff (qExpansion 1 ⇑g) := by
+  change PowerSeries.constantCoeff (qExpansion 1 (⇑f * ⇑g)) =
+    PowerSeries.constantCoeff (qExpansion 1 ⇑f) * PowerSeries.constantCoeff (qExpansion 1 ⇑g)
+  simpa [PowerSeries.coeff_zero_eq_constantCoeff] using
+    (qExpansion_mul_coeff_zero
+      ((analyticAt_cuspFunction_zero (Γ := Γ(1)) (h := 1) (k := a) f
+        (by positivity) (by simp)).continuousAt)
+      ((analyticAt_cuspFunction_zero (Γ := Γ(1)) (h := 1) (k := b) g
+        (by positivity) (by simp)).continuousAt))
```
Comment (dwrensha) [inline SpherePacking/ModularForms/Eisenstein.lean]:
```suggestion
  rw [coe_mul, qExpansion_mul (analyticAt_cuspFunction_zero f (by positivity) (by simp))
                              (analyticAt_cuspFunction_zero g (by positivity) (by simp))]
  exact PowerSeries.constantCoeff.map_mul (qExpansion 1 ⇑f) (qExpansion 1 ⇑g)
```

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 2]
```diff
@@ -584,31 +599,28 @@ theorem E4E6_coeff_zero_eq_zero :
     mul_eq_zero, inv_eq_zero, OfNat.ofNat_ne_zero, false_or]
   have hds : (((DirectSum.of (ModularForm Γ(1)) 4) E₄ ^ 3) 12) = E₄.mul (E₄.mul E₄) := by
     ext z
-    rw [pow_three]
-    rw [@DirectSum.of_mul_of, DirectSum.of_mul_of]
-    simp
-    rw [DFunLike.congr_arg (GradedMonoid.GMul.mul E₄ (GradedMonoid.GMul.mul E₄ E₄)) rfl]
+    rw [pow_three, @DirectSum.of_mul_of, @DirectSum.of_mul_of]
+    change (((DirectSum.of (ModularForm Γ(1)) 12)
+      (GradedMonoid.GMul.mul E₄ (GradedMonoid.GMul.mul E₄ E₄))) 12) z = (E₄.mul (E₄.mul E₄)) z
```
Comment (dwrensha) [inline SpherePacking/ModularForms/Eisenstein.lean]:
```suggestion
```

No need for the `change` if we're just going to do `rfl` immediately afterwards.

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 3]
```diff
@@ -584,31 +599,28 @@ theorem E4E6_coeff_zero_eq_zero :
...
     rfl
   have hd6 : ((DirectSum.of (ModularForm Γ(1)) 6) E₆ ^ 2) 12 = E₆.mul E₆ := by
     ext z
-    rw [pow_two]
-    rw [@DirectSum.of_mul_of]
-    simp
-    rw [DFunLike.congr_arg (GradedMonoid.GMul.mul E₆ E₆) rfl]
+    rw [pow_two, @DirectSum.of_mul_of]
+    change (((DirectSum.of (ModularForm Γ(1)) 12) (GradedMonoid.GMul.mul E₆ E₆)) 12) z =
+      (E₆.mul E₆) z
```
Comment (dwrensha) [inline SpherePacking/ModularForms/Eisenstein.lean]:
```suggestion
```
No need for the `change` if we're just going to do `rfl` immediately afterwards.

File: SpherePacking/ModularForms/Eisenstein.lean (hunk 2 above)
Comment (b-mehta) [reply SpherePacking/ModularForms/Eisenstein.lean]: In general, lots of the `change` in this PR looks a bit strange to me

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 4]
```diff
@@ -981,7 +993,9 @@ lemma norm_tsum_logDeriv_expo_le {q : ℂ} (hq : ‖q‖ < 1) :
     rw [norm_div, norm_mul, Complex.norm_natCast]
     have hdenom_lower : 1 - r ≤ ‖1 - q ^ (n : ℕ)‖ := calc
       1 - r ≤ 1 - r ^ (n : ℕ) := by
-        have : r ^ (n : ℕ) ≤ r := by simpa using pow_le_pow_of_le_one (norm_nonneg _) hq.le n.one_le
+        have : r ^ (n : ℕ) ≤ r := by
+          simpa [r, pow_one] using
+            (pow_le_pow_of_le_one (norm_nonneg q) hq.le n.one_le : ‖q‖ ^ (n : ℕ) ≤ ‖q‖ ^ 1)
```
Comment (dwrensha) [inline SpherePacking/ModularForms/Eisenstein.lean]:
```suggestion
        have : r ^ (n : ℕ) ≤ r := pow_le_of_le_one q.norm_nonneg hq.le n.ne_zero
```

File: SpherePacking/ModularForms/FG.lean [hunk 5]
```diff
@@ -39,14 +39,14 @@ lemma Δ_fun_eq_Δ : Δ_fun = Δ := by
   have hds : (((DirectSum.of (ModularForm Γ(1)) 4) E₄ ^ 3) 12) = E₄.mul (E₄.mul E₄) := by
     ext w
     rw [pow_three, @DirectSum.of_mul_of, DirectSum.of_mul_of]
-    simp
-    rw [DFunLike.congr_arg (GradedMonoid.GMul.mul E₄ (GradedMonoid.GMul.mul E₄ E₄)) rfl]
+    change (((DirectSum.of (ModularForm Γ(1)) 12)
+        (GradedMonoid.GMul.mul E₄ (GradedMonoid.GMul.mul E₄ E₄))) 12) w = (E₄.mul (E₄.mul E₄)) w
```
Comment (dwrensha) [inline SpherePacking/ModularForms/FG.lean]:
```suggestion
```
No need for the `change`.

File: SpherePacking/ModularForms/FG.lean [hunk 6]
```diff
@@ -39,14 +39,14 @@ lemma Δ_fun_eq_Δ : Δ_fun = Δ := by
...
     rfl
   have hd6 : (((DirectSum.of (ModularForm Γ(1)) 6) E₆ ^ 2) 12) = E₆.mul E₆ := by
     ext w
     rw [pow_two, @DirectSum.of_mul_of]
-    simp
-    rw [DFunLike.congr_arg (GradedMonoid.GMul.mul E₆ E₆) rfl]
+    change (((DirectSum.of (ModularForm Γ(1)) 12) (GradedMonoid.GMul.mul E₆ E₆)) 12) w =
+      (E₆.mul E₆) w
```
Comment (dwrensha) [inline SpherePacking/ModularForms/FG.lean]:
```suggestion
```

File: blueprint/src/subsections/modular-forms.tex [hunk 7]
```diff
@@ -198,7 +198,7 @@ \subsection{Modular forms and examples}
     Then \eqref{eqn:E2-transform-general} follows from \eqref{eqn:E2-S-transform} and $E_2|_T = E_2$.
 \end{proof}
 
-\begin{definition}\label{def:dedekind_eta}\leanok \lean{η}
+\begin{definition}\label{def:dedekind_eta}\leanok
```
Comment (dwrensha) [inline blueprint/src/subsections/modular-forms.tex]: This should reference the upstreamed def:

```suggestion
\begin{definition}\label{def:dedekind_eta}\leanok \lean{ModularForm.eta}
```

Unfortunately, the link will currently be broken (i.e. render a 404), but that's the same as the behavior of other references to upstream declarations. For example, the Lean links under [this heading](https://thefundamentaltheor3m.github.io/Sphere-Packing-Lean/blueprint/sect0004.html#thm:nonpos_wt)  are to https://thefundamentaltheor3m.github.io/Sphere-Packing-Lean/docs/find/#doc/ModularFormClass.levelOne_neg_weight_eq_zero and [ModularForm.levelOne_weight_zero_rank_one](https://thefundamentaltheor3m.github.io/Sphere-Packing-Lean/docs/find/#doc/ModularForm.levelOne_weight_zero_rank_one)

I think this is a bug in doc-gen4. Or maybe we need to configure something differently so that the generated docs include indexing for upstream declarations.

File: SpherePacking/ModularForms/FG.lean (hunk 6 above)
Comment (augustepoiroux) [reply SpherePacking/ModularForms/FG.lean]: Thank you for all the `change` removal suggestions. I applied all of them

File: blueprint/src/subsections/modular-forms.tex (hunk 7 above)
Comment (augustepoiroux) [reply blueprint/src/subsections/modular-forms.tex]: Good to know, thanks!

File: SpherePacking/Basic/PeriodicPacking.lean [hunk 8]
```diff
@@ -192,6 +192,7 @@ noncomputable def PeriodicSpherePacking.addActionOrbitRelEquiv
     · apply hg'
       exact (Classical.choose_spec (hD_unique_covers x)).left
     · apply (hg' 0 ?_).symm
+      change ((0 : EuclideanSpace ℝ (Fin d)) + x) ∈ D
```
Comment (dwrensha) [inline SpherePacking/Basic/PeriodicPacking.lean]: This also works:
```suggestion
      set_option backward.isDefEq.respectTransparency false in
```

See [this Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/backward.2EisDefEq.2ErespectTransparency/near/583322356).

Either way should be fine, but `set_option` has the advantage of clearly marking this as a workaround that should eventually be unnecessary.

File: SpherePacking/ForMathlib/VolumeOfBalls.lean [hunk 9]
```diff
@@ -27,6 +27,7 @@ theorem EuclideanSpace.volume_ball_pos [Nonempty ι] (x : EuclideanSpace ℝ ι)
       linarith
 
 open Classical in
+@[reducible]
```
Comment (dwrensha) [inline SpherePacking/ForMathlib/VolumeOfBalls.lean]: I assume this was added to deal with the new warning
```
Definition `Fintype.ofSingletonOnly` of class type must be marked with `@[reducible]` or `@[implicit_reducible]`
```

The more conservative change is to mark it with `@[implicit_reducible]`:


```suggestion
@[implicit_reducible]
```

(I checked that the project does still build successfully after this change.)


See [#general > Discussion thread for release of &#96;v4.29.0&#96; @ 💬](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/Discussion.20thread.20for.20release.20of.20.60v4.2E29.2E0.60/near/583174582)

File: SpherePacking/Basic/PeriodicPacking.lean [hunk 10]
```diff
@@ -620,7 +622,8 @@ theorem PeriodicSpherePacking.aux2_ge
       exact hxy (hx'.trans hy'.symm)
     · intro i
       exact MeasurableSet.const_vadd hD_measurable i.val
-  · exact (hD_isAddFundamentalDomain S D ‹_› ‹_›).measure_ne_zero (NeZero.ne volume)
+  · convert (hD_isAddFundamentalDomain S D ‹_› ‹_›).measure_ne_zero (NeZero.ne volume)
+    exact inferInstanceAs <| VAddInvariantMeasure S.lattice.toAddSubgroup _ volume
```
Comment (dwrensha) [inline SpherePacking/Basic/PeriodicPacking.lean:626]:
```suggestion
  · set_option backward.isDefEq.respectTransparency false in
    exact (hD_isAddFundamentalDomain S D ‹_› ‹_›).measure_ne_zero (NeZero.ne volume)
```

File: SpherePacking/Basic/PeriodicPacking.lean [hunk 11]
```diff
@@ -666,7 +669,8 @@ theorem PeriodicSpherePacking.aux2_le
     · intro i
       exact MeasurableSet.const_vadd hD_measurable i.val
   · left
-    exact (hD_isAddFundamentalDomain S D ‹_› ‹_›).measure_ne_zero (NeZero.ne volume)
+    convert (hD_isAddFundamentalDomain S D ‹_› ‹_›).measure_ne_zero (NeZero.ne volume)
+    exact inferInstanceAs <| VAddInvariantMeasure S.lattice.toAddSubgroup _ volume
```
Comment (dwrensha) [inline SpherePacking/Basic/PeriodicPacking.lean:673]:
```suggestion
    set_option backward.isDefEq.respectTransparency false in
    exact (hD_isAddFundamentalDomain S D ‹_› ‹_›).measure_ne_zero (NeZero.ne volume)
```

File: SpherePacking/MagicFunction/a/Integrability/ComplexIntegrands.lean [hunk 12]
```diff
@@ -159,17 +159,23 @@ section ContDiffOn_Real
...
-theorem Φ₄'_contDiffOn : ContDiffOn ℝ ∞ (Φ₄' r) ℍ₀ := Φ₄'_contDiffOn_ℂ.restrict_scalars ℝ
+theorem Φ₃'_contDiffOn : ContDiffOn ℝ ∞ (Φ₃' r) ℍ₀ := Φ₃'_contDiffOn_ℂ.restrict_scalars_complex
 
-theorem Φ₅'_contDiffOn : ContDiffOn ℝ ∞ (Φ₅' r) ℍ₀ := Φ₅'_contDiffOn_ℂ.restrict_scalars ℝ
+theorem Φ₄'_contDiffOn : ContDiffOn ℝ ∞ (Φ₄' r) ℍ₀ := Φ₄'_contDiffOn_ℂ.restrict_scalars_complex
 
-theorem Φ₆'_contDiffOn : ContDiffOn ℝ ∞ (Φ₆' r) ℍ₀ := Φ₆'_contDiffOn_ℂ.restrict_scalars ℝ
+theorem Φ₅'_contDiffOn : ContDiffOn ℝ ∞ (Φ₅' r) ℍ₀ := Φ₅'_contDiffOn_ℂ.restrict_scalars_complex
+
+theorem Φ₆'_contDiffOn : ContDiffOn ℝ ∞ (Φ₆' r) ℍ₀ := Φ₆'_contDiffOn_ℂ.restrict_scalars_complex
```
Comment (CBirkbeck) [inline SpherePacking/MagicFunction/a/Integrability/ComplexIntegrands.lean:178]: In reality all of these theorems should just be inlined where needed. Their statement is about as long as the proof! But this was an issue before the bump

File: SpherePacking/Basic/PeriodicPacking.lean [hunk 13]
```diff
@@ -192,6 +192,7 @@ noncomputable def PeriodicSpherePacking.addActionOrbitRelEquiv
     · apply hg'
       exact (Classical.choose_spec (hD_unique_covers x)).left
     · apply (hg' 0 ?_).symm
+      set_option backward.isDefEq.respectTransparency false in
```
Comment (thefundamentaltheor3m) [inline SpherePacking/Basic/PeriodicPacking.lean:195]: Do these have to be inside the proof?

Comment (dwrensha) [reply SpherePacking/Basic/PeriodicPacking.lean:195]: No, they could be pull up to the declaration level. Then their effect would be less localized, but I suppose it's easy enough to see where things break if you just remove the `set_option`.

**Review by CBirkbeck — APPROVED** [review]
